US06265402B1
(2) 2-(3-cyclopentyloxy-4-methoxyphenyl)-6,6-dimethylmorpholin-5-one
A crude product (1.03 g) of 2-(2-bromo-2-methylpropionamido)-1-(3-cyclopentyloxy-4-methoxyphenyl)ethanol and sodium hydride (60%) (0.23 g) were stirred in dry dimethylformamide (40 ml) at room temperature for one night. Water was added to the reaction solution obtained and the solution was extracted with ethyl acetate. Next, the extract was washed several times with water and was dried over anhydrous sodium sulfate, then the solvent was evaporated in vacuo to obtain a crude product. The crude product obtained was purified by flash chromatography (SiO2: eluted with gradient of range from 33% ethyl acetate/hexane to 75% ethyl acetate/hexane) to obtain the above-described compound 0.17 g (yield 21.1%) as a light yellow solid.

reactant | 2-(2-bromo-2-methylpropionamido)-1-(3-cyclopentyloxy-4-methoxyphenyl)ethanol | BrC(C(=O)NCC(O)C1=CC(=C(C=C1)OC)OC1CCCC1)(C)C | C18H26BrNO4
reactant | sodium hydride | 0.23 g | [H-].[Na+]
reactant | Water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-(3-cyclopentyloxy-4-methoxyphenyl)-6,6-dimethylmorpholin-5-one | 0.17 g, yield 21.1% | C1(CCCC1)OC=1C=C(C=CC1OC)C1CNC(C(O1)(C)C)=O | C18H25NO4
